* rowdecoder


.subckt inv_2 2 3 4 5 
M1 3 2 4 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.0000 $Y=0.0425 
M2 3 2 5 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.0000 $Y=0.0425 
.ends inv_2

.subckt rowdecoder A<4> A<3> A<2> 5 6 7 WL<0> WL<1> WL<2> WL<3> WL<4> WL<5> WL<6> 
+    WL<7> VDD! GND! 
M1 WL<0> A<3> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.9305 $Y=2.2880 
M2 WL<1> A<3> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.9305 $Y=2.0010 
M3 WL<2> 6 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.9305 $Y=1.7135 
M4 WL<3> 6 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.9305 $Y=1.4265 
M5 WL<4> A<3> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.9305 $Y=1.1395 
M6 WL<5> A<3> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.9305 $Y=0.8525 
M7 WL<6> 6 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.9305 $Y=0.5655 
M8 WL<7> 6 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.9305 $Y=0.2785 
M9 WL<0> A<2> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.8465 $Y=2.3375 
M10 WL<1> 5 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.8465 $Y=2.0505 
M11 WL<2> A<2> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.8465 $Y=1.7630 
M12 WL<3> 5 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.8465 $Y=1.4760 
M13 WL<4> A<2> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.8465 $Y=1.1890 
M14 WL<5> 5 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.8465 $Y=0.9020 
M15 WL<6> A<2> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.8465 $Y=0.6150 
M16 WL<7> 5 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.8465 $Y=0.3280 
M17 WL<0> A<4> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.7625 $Y=2.3375 
M18 WL<1> A<4> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.7625 $Y=2.0505 
M19 WL<2> A<4> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.7625 $Y=1.7630 
M20 WL<3> A<4> GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 
+    PDEO=5.85e-08 PSEO=5.85e-08 $X=0.7625 $Y=1.4760 
M21 WL<4> 7 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.7625 $Y=1.1890 
M22 WL<5> 7 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.7625 $Y=0.9020 
M23 WL<6> 7 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.7625 $Y=0.6150 
M24 WL<7> 7 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.7625 $Y=0.3280 
M25 WL<0> A<2> 29 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=2.3375 
M26 WL<1> 5 31 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=2.0505 
M27 WL<2> A<2> 33 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=1.7630 
M28 WL<3> 5 35 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=1.4760 
M29 WL<4> A<2> 37 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=1.1890 
M30 WL<5> 5 39 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=0.9020 
M31 WL<6> A<2> 41 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=0.6150 
M32 WL<7> 5 43 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8465 $Y=0.3280 
M33 29 A<3> 28 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=2.3625 
M34 31 A<3> 30 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=2.0755 
M35 33 6 32 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=1.7880 
M36 35 6 34 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=1.5010 
M37 37 A<3> 36 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=1.2140 
M38 39 A<3> 38 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=0.9270 
M39 41 6 40 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=0.6400 
M40 43 6 42 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=0.8045 $Y=0.3530 
M41 28 A<4> VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=2.3375 
M42 30 A<4> VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=2.0505 
M43 32 A<4> VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=1.7630 
M44 34 A<4> VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=1.4760 
M45 36 7 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=1.1890 
M46 38 7 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=0.9020 
M47 40 7 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=0.6150 
M48 42 7 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.7625 $Y=0.3280 
XFC9F1AD09 A<2> 5 GND! VDD! inv_2 $T=0.5480 0.0855 0 0 
XFC9F1AD010 A<3> 6 GND! VDD! inv_2 $T=0.3275 0.0855 0 0 
XFC9F1AD011 A<4> 7 GND! VDD! inv_2 $T=0.1150 0.0855 0 0 
.ends rowdecoder

